US07888374B2
4,6-Diamino-2-ethoxy-nicotinonitrile
To a 5 mL sealable heavy walled glass tube suitable for microwave heating containing 5 mL of absolute ethanol was added 150 mg (6.5 mmol) of sodium metal. The mixture was stirred until all of the sodium had reacted, then 1.00 g (4.71 mmol) of 2-bromo-4,6-diaminonicotinonitrile (E. I. du Pont de Nemours and Company U.S. Pat. No. 2,790,806, 1957) was added. The tube was sealed, and the reaction was heated with a microwave apparatus at 150° C. for 10 minutes then cooled and diluted with 15 mL of water. The orange precipitate which formed was washed with water until pH=7, then dried under reduced pressure at 105° C. to provide 0.545 g (65%) of a light orange solid. 1H NMR (300 MHz, d6-DMSO) δ 6.19 (s, 2H), 6.14 (s, 2H), 5.32 (s, 1H), 4.23 (q, 2H, J=7.1 Hz), 1.25 (t, 3H, J=7.1 Hz), MS (ES) m/e=151 (M−Et+H)+, 179 (M+H)+.

reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium | 6.5 mmol, 150 mg | [Na] | Na
reactant | 2-bromo-4,6-diaminonicotinonitrile | 4.71 mmol, 1.00 g | BrC1=C(C#N)C(=CC(=N1)N)N | C6H5BrN4
solvent | water | 15 mL | O | H2O
product | 4,6-Diamino-2-ethoxy-nicotinonitrile | 0.545 g, 65% | NC1=CC(=NC(=C1C#N)OCC)N | C8H10N4O
